US07745641B2
3-Amino-6-[1-(tert-butoxycarbonyl)indol-2-yl]phtalimide (300 mg, 0.795 mmol) was dissolved in ethanol (21 mL), and the solution was added with iodine (242 mg, 0.954 mmol) and silver sulfate (248 mg, 0.795 mmol), followed by stirring at room temperature for 1.3 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by slurry using chloroform to obtain 3-amino-6-[1-(tert-butoxycarbonyl)-3-iodoindol-2-yl]phtalimide (326 mg, yield 82%).

reactant | 3-Amino-6-[1-(tert-butoxycarbonyl)indol-2-yl]phtalimide | 0.795 mmol, 300 mg | NC1=C2C(C(=O)NC2=O)=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C21H19N3O4
reactant | iodine | 0.954 mmol, 242 mg | II | I2
reactant | water | O | H2O
solvent | ethanol | 21 mL | C(C)O | C2H6O
catalyst | silver sulfate | 0.795 mmol, 248 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | 3-amino-6-[1-(tert-butoxycarbonyl)-3-iodoindol-2-yl]phtalimide | 326 mg, yield 82% | NC1=C2C(C(=O)NC2=O)=C(C=C1)C=1N(C2=CC=CC=C2C1I)C(=O)OC(C)(C)C | C21H18IN3O4
